US06756380B1
To a solution of 1.2 g (4.6 mmol) 2-methylsulfanyl-5-o-tolyl-pyrimidine-4-carboxylic acid in 30 ml CH2Cl2 1.28 ml (9.2 mmol) triethylamine, 0.62 g (4.6 mmol) 1-hydroxy-benzotriazole and 0.88 g (4.6 mmol) N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride 1.05 g (6 mmol) 3,5-dichlorobenzylamine were added. The reaction mixture was stirred for 16 hrs. The reaction mixture was diluted with 20 ml CH2Cl2, washed with 50 ml 0.5N HCl and 50 ml H2O. The aqueous layers were back extracted with 50 ml CH2Cl2. The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/MeOH 100:1) to give 1.64 g (85%) 2-methylsulfanyl-5-o-tolyl-pyrimidine-4-carboxylic acid 3,5-dichloro-benzylamide as a colorless foam, MS (ISP): 418.1, 420.1 (M+H+).

reactant | 2-methylsulfanyl-5-o-tolyl-pyrimidine-4-carboxylic acid | 4.6 mmol, 1.2 g | CSC1=NC=C(C(=N1)C(=O)O)C1=C(C=CC=C1)C | C13H12N2O2S
reactant | 1-hydroxy-benzotriazole | 4.6 mmol, 0.62 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 4.6 mmol, 0.88 g | Cl.CN(CCCN=C=NCC)C
reactant | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 9.2 mmol, 30 ml | C(Cl)Cl | CH2Cl2
product | 2-methylsulfanyl-5-o-tolyl-pyrimidine-4-carboxylic acid 3,5-dichloro-benzylamide | 1.64 g, 85% | ClC=1C=C(CNC(=O)C2=NC(=NC=C2C2=C(C=CC=C2)C)SC)C=C(C1)Cl | C20H17Cl2N3OS
